US04956372
(a) Benzyl 6-cyano-1,2,3,4-tetrahydroquinoline-8-carboxylate
To a solution of 6-bromo-1,2,3,4-tetrahydroquinoline-8-carboxylic acid (4.91 g) in DMF (80 ml) was added benzyl bromide (2.5 ml) and potassium carbonate (7.88 g). The reaction mixture was stirred at room temperature for an hour, and then insoluble material was filtered off. To this filtrate was added ethyl acetate-n-hexane (1:1, 400 ml), washed with water, aqueous saturated sodium chloride solution successively and dried over anhydrous sodium sulfate. The solvent was evaporated to give the title compound (6.71 g, quant.).

reactant | 6-bromo-1,2,3,4-tetrahydroquinoline-8-carboxylic acid | 4.91 g | BrC=1C=C2CCCNC2=C(C1)C(=O)O | C10H10BrNO2
reactant | benzyl bromide | 2.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 7.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 80 ml | CN(C)C=O | C3H7NO
product | Benzyl 6-cyano-1,2,3,4-tetrahydroquinoline-8-carboxylate | 6.71 g | C(#N)C=1C=C2CCCNC2=C(C1)C(=O)OCC1=CC=CC=C1 | C18H16N2O2
